US04863921
To a mixture of 16 g of methyl 2-methoxy-4-acetylamino-5-chlorobenzoate in 130 ml of methylene chloride is slowly added 100 ml of a methylene chloride solution of borontribromide (250 g BBr3 per liter) and stirring continued for 24 hours. 1N sodium hydroxide solution is then added until all material is dissolved. The two layers are separated and the aqueous layer is acidified with 1N hydrochloric acid, filtered, washed with water and evaporated to dryness to give 4-acetylamino-5-chlorosalicylic acid which is used directly in the next step.

reactant | methyl 2-methoxy-4-acetylamino-5-chlorobenzoate | 16 g | COC1=C(C(=O)OC)C=C(C(=C1)NC(C)=O)Cl | C11H12ClNO4
reactant | BBr3 | 250 g | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-acetylamino-5-chlorosalicylic acid | C(C)(=O)NC=1C=C(C(C(=O)O)=CC1Cl)O | C9H8ClNO4
